US07285565B2
A. Preparation of N-(5-bromopyridin-2-yl)-methylmaleimide
A mixture of citraconic anhydride (1.00 mL, 11.1 mmol) and 2-amino-5-bromopyridine (1.93 g, 11.2 mmol) in toluene (60 mL) was heated to reflux overnight. The solution was cooled down, filtered. The filtrate was concentrated in vacuo to give a solid (2.10 g, yield: 71%). MS 267 and 269 (M+H).

reactant | citraconic anhydride | 11.1 mmol, 1.00 mL | C1(\C(\C)=C/C(=O)O1)=O | C5H4O3
reactant | 2-amino-5-bromopyridine | 11.2 mmol, 1.93 g | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | N-(5-bromopyridin-2-yl)-methylmaleimide | 2.10 g, yield: 71% | BrC=1C=CC(=NC1)N1C(C(=CC1=O)C)=O | C10H7BrN2O2
